US05434154
A mechanically stirred solution of ethyl 4-(3-nitro-4-pyridinyl)-1-piperazinecarboxylate (10 g, 35.7 mmol) and iron filings [40 mesh](21.7 g, 389 mmol) in a mixture of 50 mL of ethanol, 7 mL of water and 0.36 mL of concentrated HCl was heated to reflux for 4 h. The hot solution was filtered and concentrated in vacuo to give of ethyl 4-(3-amino-4-pyridinyl)-1-piperazinecarboxylate (8.5 g, 95%). An analytical sample was obtained by recrystallization from ethyl acetate in hexanes: mp 141°-142° C. Anal. Calcd for C12H18N4O2 : C, 57.58; H, 7.25; N, 22.38. Found: C, 57.43; H, 7.19; N, 22.24.

reactant | ethyl 4-(3-nitro-4-pyridinyl)-1-piperazinecarboxylate | 35.7 mmol, 10 g | [N+](=O)([O-])C=1C=NC=CC1N1CCN(CC1)C(=O)OCC | C12H16N4O4
reactant | water | 7 mL | O | H2O
reactant | HCl | 0.36 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
product | ethyl 4-(3-amino-4-pyridinyl)-1-piperazinecarboxylate | 8.5 g, 95% | NC=1C=NC=CC1N1CCN(CC1)C(=O)OCC | C12H18N4O2
